US06869949B2
Z. (7R,8R,9R)-10-Acetyl-3-chloro-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin
To a of 0° C. cooled solution of 1.00 g (2.10 mmol) (7R,8R,9R)-10-acetyl-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine in ethanol (20 ml) is added 0.28 g (2.10 mmol) NCS and the mixture is stirred for 2 h. Afterwards the reaction is quenched by adding of saturated aqueous sodium hydrogen carbonate solution and is extracted twice with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulphate and evaporated in vacuo. The crude product is purified by column chromatography (ethyl acetate/cylohexane: 1/1) to provide 0.89 g (1.73 mmol/82%) of the title compound as a colourless solid with a melting point of 167-170° C. (cyclohexane).

reactant | (7R,8R,9R)-10-acetyl-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 2.10 mmol, 1.00 g | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3)C)OCCOC)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C27H33N3O5
reactant | NCS | 2.10 mmol, 0.28 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (7R,8R,9R)-10-Acetyl-3-chloro-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3Cl)C)OCCOC)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C27H32ClN3O5
